US05284837
b) Dimethyl 2(2-aminopurin-9-ylmethyl)succinate
A mixture of dimethyl 2-(2-amino-6-chloropurin-9-ylmethyl)-succinate (3.28 g, 10 mmol), sodium acetate (1.5 g) and 5% palladium on charcoal (0.4 g) in ethanol (200 ml) was hydrogenated with agitation in a Parr apparatus at 40 psi for 115 h temperature. After filtration, sodium acetate (1.6 g) and 5% Pd/C (0.4 g) were added and the hydrogenation was continued for 70 h. After filtration and evaporation to dryness, the residue was extracted with 2×50 ml of chloroform and the combined extracts were evaporated to dryness affording 2.6 g (89%) of crude dechlorinated product.

reactant | dimethyl 2-(2-amino-6-chloropurin-9-ylmethyl)-succinate | 10 mmol, 3.28 g | NC1=NC(=C2N=CN(C2=N1)CC(C(=O)OC)CC(=O)OC)Cl | C12H14ClN5O4
reactant | sodium acetate | 1.5 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Dimethyl 2(2-aminopurin-9-ylmethyl)succinate | NC1=NC=C2N=CN(C2=N1)CC(C(=O)OC)CC(=O)OC | C12H15N5O4
